US05244908
(1) Synthesis of 5-[2-[3-(hydroxy)propylcarbamoyloxy]ethylthio]imdazo[1,2-a]pyridine (Compound 123)
To 5-[2-(phenoxycarbonyloxy)ethylthio]imidazo[1,2-a]pyridine (1.10 g, 3.50 mmoles) was added 3-aminopropanol (0.27 ml, 3.52 mmoles) and the mixture was stirred at 120° C. for 1.5 hours. The reaction mixture was cooled by standing and chloroform was added thereto, which was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was distilled off. Then, the residue was purified by column chromatography (eluent: methanol/chloroform=1:20) to obtain 575 mg of the desired product (55.6%, colorless crystals).

reactant | 5-[2-(phenoxycarbonyloxy)ethylthio]imidazo[1,2-a]pyridine | 3.50 mmoles, 1.10 g | O(C1=CC=CC=C1)C(=O)OCCSC1=CC=CC=2N1C=CN2 | C16H14N2O3S
reactant | 3-aminopropanol | 3.52 mmoles, 0.27 ml | NCCCO | C3H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-[2-[3-(hydroxy)propylcarbamoyloxy]ethylthio]imdazo[1,2-a]pyridine | 575 mg, 55.6% | OCCCNC(=O)OCCSC1=CC=CC=2N1C=CN2 | C13H17N3O3S
